US07514460B2
Intermediate 13: 4-Chloro-6-methoxy-7-[2-(4-methyl-piperazin-1-yl)-ethoxy]-quinazoline
The compound was synthesised according to GP 4 from 4-chloro-7-hydroxy-6-methoxy-quinazoline and 2-(4-Methyl-piperazin-1-yl)-ethanol. LC/ESI-MS: m/z=337 [M+H].

reactant | 4-chloro-7-hydroxy-6-methoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | 2-(4-Methyl-piperazin-1-yl)-ethanol | CN1CCN(CC1)CCO | C7H16N2O
product | 4-Chloro-6-methoxy-7-[2-(4-methyl-piperazin-1-yl)-ethoxy]-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCN(CC1)C | C16H21ClN4O2
